US07268232B2
4-(9-Hydroxy-1,5,7-trimethyl-3,7-diazabicyclo[3.3.1]non-3-yl)naphthalene-1-carbonitrile (196MBT2-13)
The title compound (3 mg, 8% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and 9-hydroxy-1,5,7-trimethyl-3,7-diazabicyclo[3.3.1]nonane (86 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 9-hydroxy-1,5,7-trimethyl-3,7-diazabicyclo[3.3.1]nonane | 0.468 mmol, 86 mg | OC1C2(CNCC1(CN(C2)C)C)C | C10H20N2O
product | 4-(9-Hydroxy-1,5,7-trimethyl-3,7-diazabicyclo[3.3.1]non-3-yl)naphthalene-1-carbonitrile | 3 mg, 8% yield | OC1C2(CN(CC1(CN(C2)C)C)C2=CC=C(C1=CC=CC=C21)C#N)C | C21H25N3O
